US09359340B2
A solution of (R)-tert-butyl 4-(5-methyl-7-oxo-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (40 mg, 0.120 mmol) in THF (4 mL) was added to a 1.5M solution of methyllithium in diethyl ether (0.088 mL, 0.132 mmol) at −78° C. The resulting mixture was stirred at −78° C. for 1 hour and quenched by saturated aqueous NH4Cl. The aqueous layer was extracted with EtOAc (2×). The organic layer was dried (MgSO4) and concentrated. The residue was purified by a silica cartridge (5.0 g) eluted by EtOAc to give tert-butyl 4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate as an off-white solid (29 mg, 69%). LCMS (APCI+) [M−Boc+H] +349.1; Rt: 2.49 min.

reactant | (R)-tert-butyl 4-(5-methyl-7-oxo-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 0.120 mmol, 40 mg | C[C@@H]1CC(C=2N=CN=C(C21)N2CCN(CC2)C(=O)OC(C)(C)C)=O | C17H24N4O3
reactant | methyllithium | C[Li]
reactant | diethyl ether | 0.132 mmol, 0.088 mL | C(C)OCC | C4H10O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 29 mg, 69% | OC1(C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C)C | C18H28N4O3
